US07259266B2
Step 1. Preparation of 2-hydroxy-3-iodo-5-(trifluoromethoxy)benzaldehyde
A mixture of 2-hydroxy-5-(trifluoromethoxy)benzaldehyde (5.09 g, 24.7 mmole) and N-iodosuccinimide (13.9 g, 61.8 mmole) in anhydrous DMF (50 mL) was stirred at room temperature for 2 days under a dry N2 atmosphere. The solvent was removed in vacuo and the residue was dissolved in EtOAc (200 mL), washed with 0.5 N HCl (200 mL), H2O (200 mL), aqueous sodium thiosulfate (100 mL), brine (100 mL), dried over MgSO4, filtered and concentrated in vacuo to give a yellow solid. Purification by sublimation under vacuum at 85° C. gave 7.97 g (97% yield) of the product as a white solid: EIHRMS m/z 331.9159 (M+, C8H8F3O4, Calc'd 331.9157).

reactant | 2-hydroxy-5-(trifluoromethoxy)benzaldehyde | 24.7 mmole, 5.09 g | OC1=C(C=O)C=C(C=C1)OC(F)(F)F | C8H5F3O3
reactant | N-iodosuccinimide | 61.8 mmole, 13.9 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2-hydroxy-3-iodo-5-(trifluoromethoxy)benzaldehyde | 7.97 g, 97% yield | OC1=C(C=O)C=C(C=C1I)OC(F)(F)F | C8H4F3IO3
